US06333358B1
To an ice-cooled solution of 5.25 ml of 1M methylmagnesium chloride/tetrahydrofuran diluted with 15 ml of tetrahydrofuran was added dropwise a solution of 1.20 g of N-acetyl-N-(2-formylbenzyl)-2-phenoxyaniline in 7 ml of tetrahydrofuran, followed by stirring at room temperature for an hour. The reaction solution was again cooled on ice, and after addition of a saturated aqueous ammonium chloride solution, extracted with ethyl acetate, and the extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:1) to give 1.19 g of N-acetyl-N-[2-(1-hydroxyethyl)benzyl]-2-phenoxyaniline as an oil.

reactant | methylmagnesium chloride tetrahydrofuran | 1M, 5.25 ml | C[Mg]Cl.O1CCCC1
reactant | N-acetyl-N-(2-formylbenzyl)-2-phenoxyaniline | 1.20 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C=O | C22H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | N-acetyl-N-[2-(1-hydroxyethyl)benzyl]-2-phenoxyaniline | 1.19 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C(C)O | C23H23NO3
